US03982011
4-(3-Cyclohexene-1-carbonylamino)-benzoic acid was prepared as described in Example 3 from 12 g (0.0875 mol) of p-aminobenzoic acid and 13.9 g (0.0963 mol) of 3-cyclohexene-1-carboxylic acid chloride.

reactant | p-aminobenzoic acid | 0.0875 mol, 12 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | 3-cyclohexene-1-carboxylic acid chloride | 0.0963 mol, 13.9 g | C1(CC=CCC1)C(=O)Cl | C7H9ClO
product | 4-(3-Cyclohexene-1-carbonylamino)-benzoic acid | C1(CC=CCC1)C(=O)NC1=CC=C(C(=O)O)C=C1 | C14H15NO3
